US05688808
This compound was prepared by General Method 14 (EXAMPLE 191) from 3-nitrobenzeneboronic acid (0.25 g, 1.5 mmol), 4-bromo-3-chloroaniline (0.21 g, 1.0 mmol), and (PPh3)4Pd (35 mg, 0.030 mmol) to afford 0.08 g (32%) of 2-chloro-4-amino-3'-nitrobiphenyl as an orange solid. Data for 2-chloro-4-amino-3'-nitrobiphenyl: 1H NMR (400 MHz, acetone-d6) 8.29 (app t, J=2.0, 1H), 8.18 (dt, J=9.0, 1.2, 1H), 7.76 (dd, J=9.0, 1.2, 1H), 7.56 (t, J=8.0, 1H), 7.14 (d, J=8.2, 1H), 6.82 (d, J=2.2, 1H), 6.65 (dd, J=8.2, 2.2, 1H), 3.86 (br s, 2H).

reactant | 3-nitrobenzeneboronic acid | 1.5 mmol, 0.25 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | 4-bromo-3-chloroaniline | 1.0 mmol, 0.21 g | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
catalyst | (PPh3)4Pd | 0.030 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-4-amino-3'-nitrobiphenyl | 0.08 g, 32% | ClC1=C(C=CC(=C1)N)C1=CC(=CC=C1)[N+](=O)[O-] | C12H9ClN2O2
